US05641778
A solution of 2-(4-methoxybutoxy)-4-(piperidin-1-ylcarbamoylmethoxy)-benzoic acid methyl ester (2.29 g) in tetrahydrofuran (10 ml) is added dropwise at 0°-5° C. over a period of 15 minutes to a 1M borane THF complex solution in tetrahydrofuran (10.0 ml). The mixture is then heated to reflux temperature and stirred for 4 hours. A further 2.0 ml of a 1M borane THF complex solution are added. After one hour under reflux, the mixture is allowed to cool, the solvent is removed, and anhydrous methanol (0.97 ml) and 3.75N hydrochloric acid solution in diethyl ether (1.61 ml) are added to the residue. After stirring overnight at room temperature, the mixture is concentrated and the crude product is purified by FC (eluant gradient from P to N). 2-(4-Methoxybutoxy)-4-(piperidin-1-ylethoxy)-benzoic acid methyl ester, Rf (L)=0.38, is obtained in the form of a brown oil (1.39 g).

reactant | 2-(4-methoxybutoxy)-4-(piperidin-1-ylcarbamoylmethoxy)-benzoic acid methyl ester | 2.29 g | COC(C1=C(C=C(C=C1)OCC(NN1CCCCC1)=O)OCCCCOC)=O | C20H30N2O6
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.0 ml | O1CCCC1 | C4H8O
product | 2-(4-Methoxybutoxy)-4-(piperidin-1-ylethoxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCN1CCCCC1)OCCCCOC)=O | C20H31NO5
